US08114868B2
To a solution of (R)-6-(2-(5-methyl-1,3,4-oxadiazol-2-yl)ethyl)-6-phenyl-3-((S) -1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one (60 mg, 0.12 mmol) and 4-iodo-1-methylpyridin-2(1H)-one (33 mg, 0.14 mmol) in dry 1,4-dioxane (15 mL) were added Cs2CO3 (2M, 1 mL) and Pd(PPh3)Cl2 (7.7 mg, 0.01 mmol). The mixture was heated at reflux for 2 h under N2 atmosphere, the solid was filtered off, and the mixture was diluted with water (30 mL) and EtOAc (30 mL). The combined organic layers was washed with brine (50 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified by prep TLC to afford (R)-6-(2-(5-methyl -1,3,4-oxadiazol-2-yl)ethyl)-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one (25 mg, yield: 41.8%). LC-MS Method 2 tR=0.984 min, m/z=499.1; 1H NMR (CDCl3): (51.48-1.50 (m, 3H), 2.16-2.20 (m, 1H), 2.23-2.26 (m, 1H), 2.27-2.32 (m, 2H), 2.39 (s, 3H), 2.40-2.47 (m, 1H), 2.49-2.54 (m, 1H), 2.87-2.90 (m, 1H), 2.98-3.01 (m, 1H), 3.58 (s, 3H), 5.62-5.64 (m, 1H), 6.45-6.48 (m, 1H), 6.87 (s, 1H), 6.92-6.94 (d, 2H), 7.20-7.24 (m, 4H), 7.25-7.35 (m, 4H).

reactant | (R)-6-(2-(5-methyl-1,3,4-oxadiazol-2-yl)ethyl)-6-phenyl-3-((S) -1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 0.12 mmol, 60 mg | CC1=NN=C(O1)CC[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1 | C29H36BN3O5
reactant | 4-iodo-1-methylpyridin-2(1H)-one | 0.14 mmol, 33 mg | IC1=CC(N(C=C1)C)=O | C6H6INO
reactant | Cs2CO3 | 2M, 1 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | (R)-6-(2-(5-methyl -1,3,4-oxadiazol-2-yl)ethyl)-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one | 25 mg, yield: 41.8% | CC1=NN=C(O1)CC[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CC(N(C=C1)C)=O)C1=CC=CC=C1 | C29H30N4O4
